US07507740B2
(i) Production of 5-[5-amino-6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)pyrimidin-4-yl]pent-4-yn-1-ol
To a solution of N4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-iodopyrimidine-4,5-diamine (300 mg) and 4-pentyn-1-ol (65 mg) in acetonitrile-triethylamine (6.0 mL-4.5 mL) were added bis(triphenylphosphine)palladium(II) dichloride (22.5 mg) and copper(I) iodide (7.3 mg) at room temperature, and the mixture was stirred at room temperature under an argon atmosphere for 24 hrs. 4-Pentyn-1-ol (65 mg), bis(triphenylphosphine)palladium(II) dichloride (22.5 mg) and copper(I) iodide (7.3 mg) were added to the reaction system and the mixture was stirred at 60° C. for 2 hrs. After concentration under reduced pressure, the residue was separated and purified by column chromatography (basic silica gel, eluent, ethyl acetate→methanol:ethyl acetate=1:19) to give the title compound (157.2 mg) as a yellow solid.

reactant | N4-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-iodopyrimidine-4,5-diamine | 300 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC(=C1N)I | C17H13ClFIN4O
reactant | 4-pentyn-1-ol | 65 mg | C(CCC#C)O | C5H8O
reactant | 4-Pentyn-1-ol | 65 mg | C(CCC#C)O | C5H8O
solvent | acetonitrile triethylamine | 6.0 mL-4.5 mL | C(C)#N.C(C)N(CC)CC
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 22.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 7.3 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 22.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 7.3 mg | [Cu]I
product | 5-[5-amino-6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)pyrimidin-4-yl]pent-4-yn-1-ol | 157.2 mg | NC=1C(=NC=NC1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)C#CCCCO | C22H20ClFN4O2
